US08304419B2
Step B: 4-chloro-2-cyclopropyl-5-{[(phenylmethyl)oxy]methyl}-1H-imidazole
A solution of N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}cyclopropanecarboxamide (1.84 g, 7.5 mmol), triphenylphosphine (4.8 g, 18.3 mmol), and carbon tetrachloride (1.9 mL, 19.7 mmol) in acetonitrile (74 mL) was heated at 45° C. for 6 h. The reaction was concentrated and the residue was stirred in CH2Cl2 (80 mL) and 0.5 N NaOH (70 mL) for 10 min. The organic layer was isolated, dried (Na2SO4), filtered, concentrated and the residue was purified by silica gel flash column chromatography (5-50% EtOAc:hexanes) to give the title compound (1.02 g, 52%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 10.90 (br. s., 1H), 7.26-7.36 (m, 5H), 4.50 (s, 2H), 4.47 (s, 2H), 1.74-1.84 (m, 1H), 0.81-0.95 (m, 4H).

reactant | N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}cyclopropanecarboxamide | 7.5 mmol, 1.84 g | C(#N)C(COCC1=CC=CC=C1)NC(=O)C1CC1 | C14H16N2O2
reactant | triphenylphosphine | 18.3 mmol, 4.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 19.7 mmol, 1.9 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 74 mL | C(C)#N | C2H3N
product | 4-chloro-2-cyclopropyl-5-{[(phenylmethyl)oxy]methyl}-1H-imidazole | 1.02 g, 52% | ClC=1N=C(NC1COCC1=CC=CC=C1)C1CC1 | C14H15ClN2O
